* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADAQ4380-4.asc
* Generated by LTspice 24.1.9 for Windows.
V5 CNV 0 PULSE(3.3 0 50n 0.1n 0.1n 190n {1/fs})
C1 OUTD 0 10p
C2 OUTC 0 10p
C3 OUTB 0 10p
C4 OUTA 0 10p
V6 VS+ 0 5
X§U2 N005 N004 N005 NC_01 NC_02 N006 0 N006 VS+ 0 VS+ 0 VS+ VS+ N002 N002 CNV OUTA OUTB NC_03 N007 NC_04 NC_05 NC_06 NC_07 0 NC_08 NC_09 NC_10 N008 NC_11 NC_12 0 NC_13 NC_14 NC_15 N009 N009 NC_16 NC_17 0 0 NC_18 OUTC OUTD ADAQ4380-4
X§U1 IN_A N004 V+ V- N004 LT1357
V7 V- 0 -15
V8 V+ 0 15
X§U3 IN_B N007 V+ V- N007 LT1357
V2 IN_B 0 SINE(0 5.5 20k) AC 1
X§U4 IN_C N008 V+ V- N008 LT1357
V9 IN_C 0 SINE(0 3.3 20k) AC 1
X§U5 IN_D N009 V+ V- N009 LT1357
V4 IN_D 0 SINE(0 2.06 20k) AC 1
X§U6 mux_ctrl1 V+ V- N001 N003 NC_19 NC_20 IN_A NC_21 NC_22 NC_23 NC_24 V+ 0 0 0 ADG1208
V1 N003 0 -10
V3 N001 0 10
V10 mux_ctrl1 0 PULSE(0 3 0 1n 1n 0.5u 1u)
* .tran 100u
* .ac dec 201 10k 1g
.param fs 4e6
.noise V(OUTA) V1 dec 201 1 1g
* Simulation Settings:
* Power Supplies
* Notes
* When used with multiple active components, transient analysis may have a longer\nsimulation time. For faster run time, do the following:\n1. Use .option noopiter\n2. Use the ADAQ4380 model to simulate the performance of the two channels.\n \nEach ADAQ4380-4 channel is set to different gain configurations just for simulation.\nRefer to ADAQ4380-4 datasheet on how to correctly set the gain per channel.
.lib ADAQ4380-4.sub
.lib ADG1208.sub
.lib LTC.lib
.backanno
.end
