* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADAQ7767-1.asc
* Generated by LTspice 24.1.9 for Windows.
V4 5V 0 5
Vicm N002 0 {Voffset}
Vin N001 0 SINE(0 {Ampl} 10k) AC 1
E3 AFE_Out 0 N003 N004 1
X§U1 5V 0 NC_01 NC_02 NC_03 NC_04 IN+ IN- N003 N004 5V 5V ADAQ7767-1
B1 RTO_Noise 0 V=V(AFE_Out)+V(CoreADC_Noise)
B2 RTI_Noise 0 V=V(RTO_Noise)/{AFE_GAIN}
R1 N005 0 60.343
E4 CoreADC_Noise 0 N005 0 {ADC_Noise}
G1 N002 IN+ N001 0 50k
R2 IN+ N002 10µ
R3 N002 IN- 10µ
G2 IN- N002 N001 0 50k
.param Ampl    =28.672
* Control Parameters:
* Input Signal Amplitude Parameter Table:
.meas NOISE noise_integ INTEG V(onoise)
* Measurements Commands: (View "Spice Error Log")
* RMS Noise:
* AC - 3dB BW:
.meas AC GAIN FIND mag(V(AFE_Out)) AT 100
.meas AC BW WHEN mag(V(AFE_Out)) = GAIN/sqrt(2)
* Simulation Commands:
* .noise V(RTI_Noise) Vin dec 50 100 {BW_3dB}
.tran 200u
* .AC dec 100 100 10Meg
* .param AFE_GAIN=1
* AAF_GAIN
* .param AFE_GAIN=4/11
.param AFE_GAIN=1/7
* .param Ampl    =11.264
* .param Ampl    =4.096
.param Voffset    =12
* Max Input Common Mode Parameter Table:
* .param Voffset    =6.2
* .param Voffset    =4.5
* .param Voffset    =0
* RTI_Noise is approximately equal to ADAQ7767-1 datasheet\nNoise Spectral Density (at 1 kHz) and Integrated Voltage\nNoise using default test conditions.
* Core ADC Noise
* Example ADC settings: (See datasheet for complete list of settings)\nADC Power Mode = Fast\nMCLK = 16.384 MHz, 13.1072 MHz, 12.288 MHz\nMCLK_DIV = 2, 4, 8, 16\nFILTER = Wideband Low Ripple (BW*0.433), Sinc5 (BW*0.204), Sinc3 (BW*0.2617)\nDEC_RATE = 32 to 1024 for Wideband\nDefault ODR = 256 kSPS\nDefault BW_3dB = 110 kHz
.param MCLK=16.384Meg
.param MCLK_DIV=2
.param ADC_Noise=33*sqrt(16.384Meg/(2*MCLK/MCLK_DIV))
.param BW_3dB=ODR*BW_Factor
.param DEC_RATE=32
.param ODR=MCLK/(MCLK_DIV*DEC_RATE)
.param BW_Factor=0.433
* ADC Settings:
.lib ADAQ7767-1.sub
.backanno
.end
