* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADAQ7768-1.asc
* Generated by LTspice 24.1.9 for Windows.
V2 P15V 0 15
V3 N15V 0 -15
V4 P5V 0 5
Vicm N003 0 {Voffset}
E1 IN+ N003 N001 0 0.5
E2 N003 IN- N001 0 0.5
Vin N001 0 SINE(0 {Ampl} 10k) AC 1
VA1 N007 0 {GAIN1}
VA2 N006 0 {GAIN2}
VA0 N008 0 {GAIN0}
E3 AFE_Out 0 N002 N004 1
R1 N005 0 60.343
E4 CoreADC_Noise 0 N005 0 {ADC_Noise}
B1 RTO_Noise 0 V=V(AFE_Out)+V(CoreADC_Noise)
B2 RTI_Noise 0 V=V(RTO_Noise)/{AFE_GAIN}
X§U1 P5V N008 N007 N006 P5V P15V IN- 0 IN+ N15V N004 N002 0 P5V P5V ADAQ7768-1
.param Voffset    = table(ind, 0,5.6, 1,8.8, 2,10.4, 3,11.2, 4,11.6, 5,11.8, 6,11.9)
* Simulation Commands:
* .noise V(RTI_Noise) Vin dec 100 100 {BW_3dB}
.TRAN 200u
* .AC dec 100 100 10Meg
.meas NOISE noise_integ INTEG V(onoise)
* Measurements Commands: (View "Spice Error Log")
* RMS Noise:
* AC - 3dB BW:
* .param ind=2
.param GAIN0 = table(ind, 0,0, 1,5, 2,0, 3,5, 4,0, 5,5 ,6,0)
.meas AC GAIN FIND mag(V(AFE_Out)) AT 100
.meas AC BW WHEN mag(V(AFE_Out)) = GAIN/sqrt(2)
.step param ind list 0 1 2 3 4 5 6
* GAIN2
* GAIN1
* GAIN0
* Gain (V/V)
* L
* 20.8
* H
* 10.4
* 5.2
* 2.6
* 1.3
* 0.65
* 0.325
* SHDN PGA
* L
* L
* L
* L
* L
* L
* L
* L
* L
* L
* L
* H
* H
* H
* H
* H
* H
* H
* H
* H
* H
* H
* FULL SCALE\nINPUT RANGE
* +/- 0.197
* +/- 0.394
* +/- 0.788
* +/- 1.575
* +/- 3.151
* +/- 6.302
* +/- 12.603
* NA
.param GAIN2 = table(ind, 0,5, 1,5, 2,5, 3,0, 4,0, 5,0, 6,0)
.param GAIN1 = table(ind, 0,5, 1,0, 2,0, 3,5, 4,5, 5,0, 6,0)
.param Ampl    = table(ind, 0,12.603, 1,6.302, 2,3.151, 3,1.575, 4,0.788, 5,0.394, 6,0.197)
* Power Supplies:
* Control Parameters:
* Table Indent Param:
* GAIN2, GAIN1, GAIN0 Parameter Table:
* Input Signal Amplitude Parameter Table:
* Input Common Mode Voltage Param:
* GAIN\nMODE
* 6
* 5
* 4
* 3
* 2
* 1
* 0
* Core ADC Noise
.param AFE_GAIN = table(ind, 0,0.325, 1,0.65, 2,1.3, 3,2.6, 4,5.2, 5,10.4 ,6,20.8)
* RTI_Noise is approximately equal to ADAQ7768-1 datasheet\nNoise Spectral Density (at 1 kHz) and\nIntegrated Voltage Noise using default test conditions.
* This model itself covers only the Analog Front-End (AFE) of the ADAQ7768-1.\nIt does not include the core ADC, mainly because\nLTspice is limited in implementing high order digital filters.\n \nIn this macromodel test fixture, an ADC Noise block was included\nto give an approximation on the noise of a complete ADAQ7768-1.\nAlso consider using ADI's online Noise Tool.\n \nNoise simulation:\nTo integrate noise only up to the brickwall passband,\nthe stop frequency of the .noise command is limited to the BW_3dB parameter.\n \nAC simulation:\nResult only shows the analog front-end filter\nAC response, without digital filter.
* Simulation and Measurement Notes:
* Example ADC settings: (See datasheet for complete list of settings)\nADC Power Mode = Fast\nMCLK = 16.384 MHz, 13.1072 MHz, 12.288 MHz\nMCLK_DIV = 2, 4, 8, 16\nFILTER = Wideband Low Ripple (BW*0.433), Sinc5 (BW*0.204), Sinc3 (BW*0.2617)\nDEC_RATE = 32 to 1024 for Wideband\nDefault ODR = 256 kSPS\nDefault BW_3dB = 110 kHz
.param MCLK=16.384Meg
.param MCLK_DIV=2
.param ADC_Noise=33*sqrt(16.384Meg/(2*MCLK/MCLK_DIV))
.param BW_3dB=ODR*BW_Factor
.param DEC_RATE=32
.param ODR=MCLK/(MCLK_DIV*DEC_RATE)
.param BW_Factor=0.433
* ADC Settings:
.lib ADAQ7768-1.sub
.backanno
.end
