* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADAQ23875.asc
* Generated by LTspice 24.1.9 for Windows.
V4 N002 N001 SINE(0 1.8189 100k) AC 1
V2 N003 0 PULSE(0 1.8 66.6n .2n .2n 5n 66.6n)
V3 VS_N 0 -2
V1 PDB 0 6.5
V5 VDD 0 5
X§U1 N001 N002 PDB PDB VS_N NC_01 NC_02 NC_03 VDD Vout N003 0 ADAQ23875
* Simulation Settings:
.noise V(Vout) V1 dec 500 100 10G
;.tran 10u
;.ac dec 100 100 10G
* Power Supplies:
.lib ADAQ23875.sub
.backanno
.end
