* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADAQ23878.asc
* Generated by LTspice 24.1.9 for Windows.
V4 N003 N002 SINE(0 1.8189 100k) AC 1
V2 N004 0 PULSE(0 1.8 66.6n .2n .2n 5n 66.6n)
V3 VS_N 0 -2
V1 VS_P 0 6.5
V5 VDD 0 5
X§U2 N001 N002 N002 NC_01 NC_02 N003 N003 N005 NC_03 NC_04 VS_P VS_P VS_N NC_05 NC_06 NC_07 VDD Vout N004 0 ADAQ23878
* Simulation Settings:
.noise V(Vout) V1 dec 500 100 10G
;.tran 10u
;.ac dec 100 100 10G
* Power Supplies:
.lib ADAQ23878.sub
.backanno
.end
