* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADAQ4003.asc
* Generated by LTspice 24.1.9 for Windows.
V4 N003 0 SINE(0 -1.25 100k) AC 1
V2 N004 0 PULSE(0 1.8 0 .2n .2n 10n 500n)
V3 VS_N 0 0
V1 VS_P 0 5.5
V5 VDD 0 1.8
V6 REF 0 5
V7 N005 0 SINE(0 1.25 100k) AC 1
X§U1 N002 N002 N003 NC_01 NC_02 N005 N006 N006 N007 N008 VS_P VS_P VS_N REF VCMO VS_P VDD Vout N004 N001 0 ADAQ4003
* Simulation Settings:
;noise V(Vout) V1 dec 500 100 10G
.tran 20u
;ac dec 100 100 10G
* Power Supplies:
.lib ADAQ4003.sub
.backanno
.end
