* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADAQ4224.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N001 N002 N006 N008 N012 N015 N003 N009 N004 N005 N011 N007 N014 N010 0 N013 ADAQ4224
V1 N006 0 SINE(0 0.075 2k)
V2 N008 0 SINE(0 0.075 2k 0 0 180)
V3 N002 0 -18
V4 N001 0 18
R1 0 N007 10k
V5 N012 0 3.3
V6 N015 0 3.3
V7 N003 0 5
V8 N009 0 -1
V9 N004 0 4.096
V10 N005 0 5
V11 N010 0 PWL(0 0 100n 0 200n 1.8)
V13 N011 0 PULSE(0 1.8 500n .2n .2n 19.8n 500n)
R2 N014 0 10k
V12 N013 0 5
.tran 0 1m 0 10n
* IN+, IN-: Analog inputs. Transients from sampling caps are simulated. Input range is +/-VREF
* REF: For 5V VREF VDD should be 5.4V +/-100mV
* VDD: For REF=4.096V VDD=4.75V to 5.25V For REF=4.5V VDD= 4.8V to 5.25V
* Digital Out: Digital representation of output. +/-2^23 This can be used to drive DAC inputs
* Vout: Analog output +/-VREF
* CNV: 2MHz max 0V-1.8V logic level
* RSTn: Resets ADC. Tie to 1.8V for normal operation
.lib ADAQ4224.sub
.backanno
.end
