* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADAQ4380.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 0 IN1+ +V -V Sin+ AD8675
V1 +V 0 5
V2 -V 0 -5
R1 Sin+ IN1+ 60.4k
C1 Sin+ IN1+ 12p
I1 IN1+ 0 PULSE(0 50u 0 10p 10p 10u 20u) AC 0.5
C2 IN1+ 0 100p
R2 IN1+ 0 1G
X§U2 0 IN1- +V -V Sin- AD8675
R3 Sin- IN1- 60.4k
C3 Sin- IN1- 12p
I2 IN1- 0 PULSE(0 50u 10u 10p 10p 10u 20u) AC 0.5 180
C4 IN1- 0 100p
R4 IN1- 0 1G
X§U3 0 IN2+ +V -V Cos+ AD8675
R5 Cos+ IN2+ 60.4k
C5 Cos+ IN2+ 12p
I3 IN2+ 0 PULSE(0 50u 5u 10p 10p 10u 20u) AC 0.5
C6 IN2+ 0 100p
R6 IN2+ 0 1G
X§U4 0 IN2- +V -V Cos- AD8675
R7 Cos- IN2- 60.4k
C7 Cos- IN2- 12p
I4 IN2- 0 PULSE(0 50u 15u 10p 10p 10u 20u) AC 0.5 180
C8 IN2- 0 100p
R8 IN2- 0 1G
X§U5 N001 NC_01 Sin+ N002 N003 Sin- NC_02 N004 +V 0 +V 0 +V +V VCC VCC CNV SDOA SDOB N005 NC_03 Cos+ N006 N007 Cos- NC_04 N008 ADAQ4380
V3 CNV 0 PULSE(3.3 0 50n 0.1n 0.1n 200n {1/fs})
C13 SDOA 0 10p
C14 SDOB 0 10p
X§U6 Sin+ Sin- +V 0 Sine LTC6702
X§U7 Cos+ Cos- +V 0 Cosine LTC6702
C9 N001 N002 82p
C10 N004 N003 82p
C11 N005 N006 82p
C12 N008 N007 82p
.tran 0 120u 20u
;ac dec 201 1k 1g
;noise V(SDOA) V1 dec 201 1 1g
* Optical Encoder Signal Conditioning System
* For TIA Design, visit Photodiode Circuit Design Wizard
* TIA:\n      Target Pulse Width: 10us\n       Peak Voltage: 1.5V\n       System Bandwidth: 350 kHz\n       SNR: 87.5 dB
.param fs 4e6
.lib AD8675.sub
.lib ADAQ4380.sub
.lib LTC3.lib
.backanno
.end
