* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADCMP356.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 2.25
V2 N002 0 PULSE(0 1 0 .5m .5m 0 1m)
R1 N003 0 10K
X§U1 N002 0 N001 N003 ADCMP356
.tran 3m
.lib ADCMP356.sub
.backanno
.end
