* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADCMP580.asc
* Generated by LTspice 24.1.9 for Windows.
R1 Q 0 50
R2 _Q 0 50
V1 VP 0 PWL(0 1.4 300p 1.4 +25p 1.7)
V2 VN 0 1.5
R3 HYS VEE 1k
V3 VEE 0 -5
V4 VCC 0 5
V5 _LE 0 0
V6 LE 0 0.4
X§U1 0 VP VN 0 VCC _LE LE 0 0 _Q Q VEE HYS ADCMP580
.tran 1n
.lib ADCMP580.sub
.backanno
.end
