* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1201.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V3 N001 0 SINE(0 15 1k)
V4 N003 0 pulse(0 3.3 0 1u 1u 5m 10m)
R1 N002 0 1K
X§U1 N003 N002 N001 -V 0 +V ADG1201
.tran 30m
.lib ADG1201.sub
.backanno
.end
