* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1206.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N002 0 1
V2 N003 0 2
V3 N004 0 3
V4 N005 0 4
V5 N006 0 5
V6 N007 0 6
V7 N008 0 7
V8 N009 0 8
V9 N011 0 9
V10 N012 0 10
V11 N013 0 11
V18 N001 0 15
V17 N024 0 -15
V19 N020 0 PULSE(0 5 0 10n 10n 10u 20u)
R1 N010 0 301
C1 N001 0 0.1µ
C2 N024 0 0.1µ
C3 N010 0 36p
V14 N016 0 14
V15 N017 0 12
V16 N018 0 8
V13 N015 0 13
V12 N014 0 12
V20 N019 0 5
V21 N021 0 5
V22 N022 0 5
V23 N023 0 5
X§U1 N001 N019 N021 N022 N023 N024 N020 N002 N003 N004 N005 N006 N007 N008 N009 N011 N012 N013 N014 N015 N016 N017 N018 N010 0 ADG1206
.tran 100u
* Notes:\nSwitch shown for a logic 0 input
.lib ADG1206.sub
.backanno
.end
