* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1207.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N002 0 1
V2 N003 0 2
V3 N004 0 3
V4 N005 0 4
V5 N007 0 5
V6 N008 0 6
V7 N009 0 7
V8 N010 0 8
V9 N011 0 9
V10 N012 0 10
V11 N013 0 11
V18 N001 0 15
V17 N024 0 -15
V19 N021 0 PULSE(0 5 0 10n 10n 10u 20u)
R1 N006 0 301
C1 N001 0 0.1µ
C2 N024 0 0.1µ
C3 N006 0 36p
V14 N017 0 14
V15 N018 0 12
V16 N019 0 8
V13 N016 0 13
V12 N014 0 12
V20 N020 0 0
V21 N022 0 0
V22 N023 0 0
X§U1 N001 N020 N022 N023 N024 N021 N002 N003 N004 N005 N007 N008 N009 N010 N006 N011 N012 N013 N014 N016 N017 N018 N019 N015 0 ADG1207
R2 N015 0 301
C4 N015 0 36p
.tran 100u
* Note:\nSwitch shown for a logic 0 input
.lib ADG1207.sub
.backanno
.end
