* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1208.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V3 N009 0 SINE(0 5 8K)
V4 N010 0 PULSE(3.3 0 0 1u 1u 5m 10m)
R1 N005 0 10K
V5 N011 0 PULSE(3.3 0 0 1u 1u 10m 20m)
V6 N012 0 PULSE(3.3 0 0 1u 1u 20m 40m)
V7 N002 0 SINE(0 5 2K)
V8 N004 0 SINE(0 5 4K)
V9 N007 0 SINE(0 5 6K)
V10 N001 0 SINE(0 5 1K)
V11 N003 0 SINE(0 5 3K)
V12 N006 0 SINE(0 5 5K)
V13 N008 0 SINE(0 5 7K)
X§U1 N010 +V -V N001 N002 N003 N004 N005 N009 N008 N007 N006 +V 0 N012 N011 ADG1208
.tran 40m
.lib ADG1208.sub
.backanno
.end
