* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1211.asc
* Generated by LTspice 24.1.9 for Windows.
V1 vS 0 SINE(0 10 20)
R1 vD 0 301
V2 vIN 0 PULSE(0 2.5 20n 20n 20n 150m 300m)
C1 vD 0 36p
V3 v+ 0 15
V4 v- 0 -15
X§U1 vIN vS vD v- v+ 0 ADG1211
.tran 1
* Note:\nSwitch shown for a logic 0 input\nParameter performance modeled at ±15V supply\nOny one channel is modeled\nBandwith is equal to 566 MHz only
.lib ADG1211.sub
.backanno
.end
