* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1334.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V4 IN 0 PULSE(0 5 0 20n 20n 10u 20u)
V5 SA 0 12
V6 SB 0 0
R1 D 0 300
C1 D 0 35p
X§U1 IN SA D SB -V 0 +V ADG1334
.tran 120u
* Note:\nSwitch shown for a logic 1 input\nOnly one channel modeled\nRon modeled at ±15V\nCrosstalk at -90 dB at 1MHz
.lib ADG1334.sub
.backanno
.end
