* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1409.asc
* Generated by LTspice 24.1.9 for Windows.
V3 N002 0 8
V4 N003 0 9
V5 N005 0 10
V6 N006 0 11
V7 N012 0 5
V8 N014 0 5
V12 N001 0 15
V13 N015 0 -15
V14 N013 0 PULSE(0 5 0 10n 10n 10u 20u)
R1 N004 0 100
C1 N001 0 0.1µ
C2 N015 0 0.1µ
C3 N004 0 35p
X§U1 N001 N012 N014 N013 N015 0 N002 N003 N005 N006 N004 N007 N008 N010 N011 N009 ADG1409
R2 N009 0 100
C4 N009 0 35p
V1 N007 0 8
V2 N008 0 9
V9 N010 0 10
V10 N011 0 11
.tran 100u
.lib ADG1409.sub
.backanno
.end
