* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1419.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V4 N004 0 PULSE(0 5 0 20n 20n 10u 20u)
R2 N001 0 300
V5 N002 0 10
V3 N005 0 5;PULSE(0 5 0 20n 20n 10u 20u)
X§U1 N004 N002 N001 N003 N005 -V 0 +V ADG1419
V6 N003 0 0
C1 0 N001 35p
.tran 0.0001
.lib ADG1419.sub
.backanno
.end
