* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1434.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
V4 IN 0 pulse(0 3.3 0 1u 1u 5m 10m)
R1 SA 0 1K
R2 SB 0 1K
V5 D 0 SINE(0 10 2k)
V3 N001 0 3.3
X§U1 IN SA D SB -V 0 +V N001 ADG1434
.tran 30m
.lib ADG1434.sub
.backanno
.end
