* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG1534.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -8
V4 vIN 0 PULSE(0 1.8 0 20n 20n 10u 20u)
V5 vSA 0 2.5
V6 vSB 0 -8
R1 vD 0 301
C1 vD 0 36p
X§U1 vIN vSA vD vSB 0 -V 0 +V ADG1534
.tran 120u
* Notes:\nSwitch shown for a logic 0 input\nQinj not included in the model\nOnly one channel is modeled
.lib ADG1534.sub
.backanno
.end
